US06495551B1
N-[(5S)3-(3-Fluoro-4-(4-(4-ethoxycarbonyl-1,2,3-triazol-1-yl)methylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide
N-[(5S)-3-(3-Fluoro-4-(4-azidomethylimidazol-1-yl)phenyl )-2-oxooxazolidin-5-yl-methyl]acetamide (200 mg, 0.54 mM) and ethyl propiolate (79 mg, 0.81 mM) were dissolved in acetonitrile (10 ml) and heated under reflux for 3 hours. Further ethyl propio late (79 mg) was added, and heting continued for a total of 7 hours. Solvent was evaporated, the residue dissolved in the minimum volume of dichloromethane, and chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the title product (184 mg), containing about 10% of the 5-ethoxycarbonyl isomer.

reactant | N-[(5S)-3-(3-Fluoro-4-(4-azidomethylimidazol-1-yl)phenyl )-2-oxooxazolidin-5-yl-methyl]acetamide | 0.54 mM, 200 mg | FC=1C=C(C=CC1N1C=NC(=C1)CN=[N+]=[N-])N1C(O[C@H](C1)CNC(C)=O)=O | C16H16FN7O3
reactant | ethyl propiolate | 0.81 mM, 79 mg | C(C#C)(=O)OCC | C5H6O2
reactant | ethyl propio late | 79 mg | C(C#C)(=O)OCC | C5H6O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[(5S)3-(3-Fluoro-4-(4-(4-ethoxycarbonyl-1,2,3-triazol-1-yl)methylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 184 mg | FC=1C=C(C=CC1N1C=NC(=C1)CN1N=NC(=C1)C(=O)OCC)N1C(O[C@H](C1)CNC(C)=O)=O | C21H22FN7O5
